US07541374B2
1.07 g of 3-t-butyl-1H-pyrazole-1-ylmethanol was dissolved to 140 ml of dichloromethane. 2 ml of thionyl chloride was added to the solution, followed by stirring at room temperature for overnight. The reaction mixture was concentrated under reduced pressure to obtain 1.66 g of 3-t-butyl-1-(chloromethyl)-1H-pyrazole hydrochloride.

reactant | 3-t-butyl-1H-pyrazole-1-ylmethanol | 1.07 g | C(C)(C)(C)C1=NN(C=C1)CO | C8H14N2O
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 140 ml | ClCCl | CH2Cl2
product | 3-t-butyl-1-(chloromethyl)-1H-pyrazole hydrochloride | 1.66 g | Cl.C(C)(C)(C)C1=NN(C=C1)CCl | InChI=1S/C8H13ClN2.ClH/c1-8(2,3)7-4-5-11(6-9)10-7;/h4-5H,6H2,1-3H3;1H
